US07915250B2
3-[(2-Fluoro-4-iodophenyl)amino]pyridine-4-carboxylic acid (200 mg, 0.559 mmol), prepared using procedures similar to those described in WO 2006/045514, was suspended in DMF (7 mL) and 1-hydroxybenzotriazole (151 mg, 1.12 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (214 mg, 1.12 mmol) were added. The mixture was stirred at ambient for 10 minutes and then triethylamine (0.078 mL, 0.559 mmol) was added. After a further 20 minutes, 1,1-dimethylethyl(2S)-2-(3-hydroxyazetidin-3-yl)piperidine-1-carboxylate (143 mg, 0.559 mmol), prepared using similar procedures to those described in Example 22(a) and 22(b), and triethylamine (0.16 mL, 1.15 mmol) were added and the mixture was stirred for 15 hours. The mixture was partitioned between ethyl acetate and saturated ammonium chloride. The organic portion was washed with 5% lithium chloride and twice with saturated sodium bicarbonate, then was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography (silica gel, 60-80% ethyl acetate in hexanes) to give 1,1-dimethylethyl(2S)-2-[1-({3-[(2-fluoro-4-iodophenyl)amino]pyridin-4-yl}carbonyl)-3-hydroxyazetidin-3-yl]piperidine-1-carboxylate (368 mg, 0.587 mmol, 74% yield): 1H NMR (400 MHz, CDCl3): 8.73 (br m, 1H), 8.62 (br s, 1H), 8.14 (d, 1H), 7.47 (dd, 1H), 7.43-7.39 (m, 1H), 7.20-7.12 (m, 2H), 4.38-4.21 (m, 2H), 4.16-4.01 (m, 2H), 4.01-3.88 (m, 1H), 3.44-3.30 (m, 1H), 2.98-2.83 (m, 1H), 2.00-1.88 (m, 1H), 1.71-1.50 (m, 6H), 1.44 (s, 9H); MS (EI) for C25H30FIN4O4: 597 (MH+).

reactant | 3-[(2-Fluoro-4-iodophenyl)amino]pyridine-4-carboxylic acid | 0.559 mmol, 200 mg | FC1=C(C=CC(=C1)I)NC=1C=NC=CC1C(=O)O | C12H8FIN2O2
reactant | 1-hydroxybenzotriazole | 1.12 mmol, 151 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.12 mmol, 214 mg | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 0.559 mmol, 0.078 mL | C(C)N(CC)CC | C6H15N
reactant | 1,1-dimethylethyl(2S)-2-(3-hydroxyazetidin-3-yl)piperidine-1-carboxylate | 0.559 mmol, 143 mg | OC1(CNC1)[C@H]1N(CCCC1)C(=O)OC(C)(C)C | C13H24N2O3
reactant | triethylamine | 1.15 mmol, 0.16 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | 1,1-dimethylethyl(2S)-2-[1-({3-[(2-fluoro-4-iodophenyl)amino]pyridin-4-yl}carbonyl)-3-hydroxyazetidin-3-yl]piperidine-1-carboxylate | 0.587 mmol, 368 mg, 74% yield | FC1=C(C=CC(=C1)I)NC=1C=NC=CC1C(=O)N1CC(C1)(O)[C@H]1N(CCCC1)C(=O)OC(C)(C)C | C25H30FIN4O4
